US09388172B2
In a 5 mL microwave vial, 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanoic acid (50 mg, 130 μmol), 2-amino-5-chlorophenol (28.1 mg, 196 μmol) and p-toluenesulfonic acid (4.96 mg, 26.1 μmol) were combined in toluene (1.00 ml) to give a dark brown suspension. The tube was sealed and heated in a microwave at 135° C. for 2 h, diluted with ethyl acetate (30 ml), washed with a saturated solution of Na2CO3 (30 ml) and H2O (30 ml), dried over MgSO4, filtered and concentrated in vacuo to give an oil. The oil was purified on a silica column (100% CH2Cl2 to 50% ethyl acetate/CH2Cl2 gradient) to afford an oil which was dissolved in ether/hexane (1 ml/1 ml), treated with a 4N HCl solution in dioxanes (0.02 ml) and concentrated to afford 25 mg (37%) of 6-chloro-2-{3,3,3-trifluoro-2-[3-(3-trifluoromethyl-phenyl)-piperidin-1-ylmethyl]-propyl}-benzooxazole hydrochloride as a light red solid. MH+=491.

reactant | 4,4,4-trifluoro-3-((3-(3-(trifluoromethyl)phenyl)piperidin-1-yl)methyl)butanoic acid | 130 μmol, 50 mg | FC(C(CC(=O)O)CN1CC(CCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C17H19F6NO2
reactant | 2-amino-5-chlorophenol | 196 μmol, 28.1 mg | NC1=C(C=C(C=C1)Cl)O | C6H6ClNO
reactant | p-toluenesulfonic acid | 26.1 μmol, 4.96 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | HCl | 4N | Cl | ClH
solvent | toluene | 1.00 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ether hexane | 1 ml | CCOCC.CCCCCC
product | 6-chloro-2-{3,3,3-trifluoro-2-[3-(3-trifluoromethyl-phenyl)-piperidin-1-ylmethyl]-propyl}-benzooxazole hydrochloride | 25 mg, 37% | Cl.ClC1=CC2=C(N=C(O2)CC(C(F)(F)F)CN2CC(CCC2)C2=CC(=CC=C2)C(F)(F)F)C=C1 | InChI=1S/C23H21ClF6N2O.ClH/c24-18-6-7-19-20(11-18)33-21(31-19)10-17(23(28,29)30)13-32-8-2-4-15(12-32)14-3-1-5-16(9-14)22(25,26)27;/h1,3,5-7,9,11,15,17H,2,4,8,10,12-13H2;1H
